US07842688B2
a) tert-Butyl 3-{[2-(2-acetylaminoethyl)phenylcarbamoyl]methoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Example 3a, 0.138 g of tert-butyl 3-carboxymethoxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.061 g of N-[2-(2-aminophenyl)ethyl]acetamide. The title compound is obtained as a yellow oil. Rf=0.21 (95:5 dichloromethane-methanol); Rt=5.22.

reactant | tert-butyl 3-carboxymethoxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.138 g | C(=O)(O)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C29H39NO8
reactant | N-[2-(2-aminophenyl)ethyl]acetamide | 0.061 g | NC1=C(C=CC=C1)CCNC(C)=O | C10H14N2O
product | tert-Butyl 3-{[2-(2-acetylaminoethyl)phenylcarbamoyl]methoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC1=C(C=CC=C1)NC(=O)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C39H51N3O8
